US07517873B2
To a suspension of 0.045 g of (rac)-4-(9-cyclohexyl-7-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide trifluoro-acetic acid salt in tetrahydrofuran was added 0.2 g of SilicaBond Carbonate (Silicycle). The mixture was stirred at room temperature for 3 hours, then filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with dichloromethane-methanol (100:0-75:25) to give 0.020 g of (rac)-4-(9-cyclohexyl-7-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-18) as a white powder. HRMS (ES+) m/z Calcd for C28H39N7O3+H [(M+H)+]: 522.3187. Found: 522.3187.

reactant | (rac)-4-(9-cyclohexyl-7-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide trifluoro-acetic acid salt | 0.045 g | FC(C(=O)O)(F)F.C1(CCCCC1)N1C2=C(NC(C(C1)C)=O)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC
reactant | Carbonate | C([O-])([O-])=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (rac)-4-(9-cyclohexyl-7-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.020 g | C1(CCCCC1)N1C2=C(NC(C(C1)C)=O)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C28H39N7O3
